US07553979B2
A solution of 2-hydroxy-4,6-dimethoxy-benzoic acid (0.36 g, 0.18 mmol), 2-hydroxy-dec-9-en-5-one (0.024 g, 0.14 mmol), PPh3 (0.042 g, 0.16 mmol), diethyl azodicarboxylate (25 μL, 0.15 mmol) in diethyl ether (1.5 mL) was stirred at room temperature for 7 hours. Concentration under vacuum and chromatography afforded 2-hydroxy-4,6-dimethoxy-benzoic acid 1-methyl-4-oxo-non-8-enyl ester as a light yellow oil (32 mg).

reactant | 2-hydroxy-4,6-dimethoxy-benzoic acid | 0.18 mmol, 0.36 g | OC1=C(C(=O)O)C(=CC(=C1)OC)OC | C9H10O5
reactant | 2-hydroxy-dec-9-en-5-one | 0.14 mmol, 0.024 g | OC(C)CCC(CCCC=C)=O | C10H18O2
reactant | PPh3 | 0.16 mmol, 0.042 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | diethyl azodicarboxylate | 0.15 mmol, 25 μL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | diethyl ether | 1.5 mL | C(C)OCC | C4H10O
product | 2-hydroxy-4,6-dimethoxy-benzoic acid 1-methyl-4-oxo-non-8-enyl ester | 32 mg | CC(CCC(CCCC=C)=O)OC(C1=C(C=C(C=C1OC)OC)O)=O | C19H26O6
